US04296129
N-(1-Methyldecyl)-3-(3-[cis-3-carboxypropenamido]phenyl)-2-butenamide
A stirred solution of 1.0 g. of the N-(1-methyldecyl)-3-(3-aminophenyl)-2-butenamide from Preparation 27 in 25 ml. of toluene was heated on a steam bath, and then 0.32 g. of maleic anhydride was added in one portion. After a few minutes the reaction mixture was cooled and the toluene was removed by evaporation in vacuo. The residue was recrystallized from acetonitrile to give 0.70 g. of the title compound as a white solid, m.p. 76°-78° C. (dec.). The IR spectrum (KBr disc) showed absorptions at 3448, 3279, 2941, 1724, 1639, 1587 and 1563 cm-1. The NMR spectrum (DMSO-d6) showed absorptions at 0.9 (m, 3H), 1.09 (m, 3H), 1.26 (s, 16H), 2.47 (m, 3H, under DMSO-d6), 3.8 (m, 1H), 6.26 (m, 3H), 7.62 (m, 6H) and 10.44 (s, 1H) ppm.

reactant | N-(1-methyldecyl)-3-(3-aminophenyl)-2-butenamide | CC(CCCCCCCCC)NC(C=C(C)C1=CC(=CC=C1)N)=O | C21H34N2O
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(1-Methyldecyl)-3-(3-[cis-3-carboxypropenamido]phenyl)-2-butenamide | CC(CCCCCCCCC)NC(C=C(C)C1=CC(=CC=C1)NC(\C=C/C(=O)O)=O)=O | C25H36N2O4
